US05380461
In 1 l four-necked flask having a gas supplying tube, 200 ml of n-hexane, 75 ml of dry diethyl ether and 24.6 g (0.1 mol) of 4-(n-propyl)iodobenzene were introduced under a nitrogen atmosphere, and then 86.2 ml of a hexane solution of n-butyl lithium (1.16 mol) was dropwise added thereto under stirring at -80° C. Then, while the reaction system was maintained at -80° C., 10 g (0.1 mol) of tetrafluoroethylene was introduced under vigorously stirring in 30 minutes. The reaction solution was stirred further for one hour and poured into ice water and neutralized with dilute hydrochloric acid, and then the organic layer was separated. The aqueous layer was extracted with methylene chloride, and the extract was combined to the organic layer, followed by drying. The solvent was distilled off to obtain 12 g (yield: 60%) of 1-(4-n-propylphenyl)-1,2,2-trifluoroethylene.

reactant | 4-(n-propyl)iodobenzene | 0.1 mol, 24.6 g | C(CC)C1=CC=C(C=C1)I | C9H11I
reactant | n-butyl lithium | 1.16 mol | C(CCC)[Li]
reactant | tetrafluoroethylene | 0.1 mol, 10 g | FC(=C(F)F)F | C2F4
reactant | hydrochloric acid | Cl | ClH
solvent | hexane | 86.2 ml | CCCCCC | C6H14
solvent | diethyl ether | 75 ml | C(C)OCC | C4H10O
solvent | n-hexane | 200 ml | CCCCCC | C6H14
product | 1-(4-n-propylphenyl)-1,2,2-trifluoroethylene | 12 g, yield: 60% | C(CC)C1=CC=C(C=C1)C(=C(F)F)F | C11H11F3
